US06096782
Synthesis of N-(3,5-dimethoxyphenyl)-D,L-alanine
The title compound was prepared according to the procedure described in U.S. Pat. No. 3,598,859 (or Example A above) using 3,5-dimethoxyaniline (Aldrich) and 2-chloropropionic acid (Aldrich).

reactant | 3,5-dimethoxyaniline | COC=1C=C(N)C=C(C1)OC | C8H11NO2
reactant | 2-chloropropionic acid | ClC(C(=O)O)C | C3H5ClO2
product | N-(3,5-dimethoxyphenyl)-D,L-alanine | COC=1C=C(C=C(C1)OC)NC(C)C(=O)O | C11H15NO4
